US04387150
To a 2 l flask were added 342 g of thiocarbanilide, 240 g of methyl iodide and 350 cc of ethanol and the mixture was refluxed for 2 hours. After cooling the mixture to a room temperature, a small amount of water was added and the mixture was allowed to stand to precipitate the raw product, which was then filtered off and dissolved in 12 l of hot water. After filtration, the filtrate was converted to an alkaline solution by addition of NaOH to precipitate the product. The product was filtered and washed well until the filtrate became neutral. After drying, the product was recrystalized in 1 l of ethanol to give S-methyl-N,N'-diphenylisothiourea.

reactant | thiocarbanilide | 342 g | C1=CC=C(C=C1)NC(=S)NC2=CC=CC=C2 | C13H12N2S
reactant | methyl iodide | 240 g | CI | CH3I
reactant | ethanol | 350 cc | C(C)O | C2H6O
solvent | water | O | H2O
product | S-methyl-N,N'-diphenylisothiourea | CSC(NC1=CC=CC=C1)=NC1=CC=CC=C1 | C14H14N2S
